US05599829
2-[3-(2-Chloro-6-methylphenyl)-thioureido]-acetamide was prepared by the procedure described in Example 2 using 18.3 g of 2-chloro-6-methylphenylisothiocyanate and 12.0 g of glycinamide. 22.8 Grams of the product was obtained, m.p. 161°-163° C. (dec.). This compound was used without further purification in the next paragraph.

reactant | 2-chloro-6-methylphenylisothiocyanate | 18.3 g | ClC1=C(C(=CC=C1)C)N=C=S | C8H6ClNS
reactant | glycinamide | 12.0 g | NCC(=O)N | C2H6N2O
product | 2-[3-(2-Chloro-6-methylphenyl)-thioureido]-acetamide | ClC1=C(C(=CC=C1)C)NC(NCC(=O)N)=S | C10H12ClN3OS
